US04808608
9-p-Chlorobenzyl-6-fluoro-3-methyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid
Following the procedure of Example 1, but using 1-(4-chlorobenzyl)-1-(4-fluorophenyl)hydrazine hydrochloride and ethyl 4-methyl-2-cyclohexanone acetate as starting materials, the title compound was prepared. m.p. 205°-206° C.

reactant | 1-(4-chlorobenzyl)-1-(4-fluorophenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1
reactant | ethyl 4-methyl-2-cyclohexanone acetate | C(C)(=O)O.C(C)C1C(CC(CC1)C)=O
product | 9-p-Chlorobenzyl-6-fluoro-3-methyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid | ClC1=CC=C(CN2C3=CC=C(C=C3C=3CC(CC(C23)CC(=O)O)C)F)C=C1 | C22H21ClFNO2
